US08871782B2
8-Benzyloxy-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinoline (15.00 g, 39.84 mmol) and ethanol (300 mL) were added to a Parr vessel. A mixture of palladium hydroxide (2.0 g, 20% on carbon) in ethanol (100 mL) was then added. The vessel was purged with nitrogen, placed under hydrogen pressure (25 psi, 1.7×105), and shaken for three hours. The vessel was then refilled with hydrogen (25 psi, 1.7×105) and shaken for 18 hours. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with methanol (2 L). The filtrate was concentrated under reduced pressure, and the resulting orange oil was dissolved in toluene and concentrated under reduced pressure to provide 10.7 g of 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol as a granular, orange solid.

reactant | 8-Benzyloxy-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinoline | 39.84 mmol, 15.00 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CCC)COCC | C23H25N3O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 2.0 g | [OH-].[Pd+2].[OH-]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | 10.7 g | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)CCC | C16H19N3O2
